### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Sites): fullness of `DescentData.pullFunctor`

### PR DESCRIPTION
**Pull request by joelriou**
Let `F` be a prestack for a Grothendieck topology `J`, `f : X i ⟶ S` and `f' : X' j ⟶ S` be two families of morphisms.
Assume that `f'` is a covering family for `J`, then functors `F.pullFunctor .. : F.DescentData f ⥤ F.DescentData f'` are full.
(They are also faithful, but this shall be done in a separate PR #33256 where we also deduce characterizations of (pre)stacks for pretopologies.)

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Sites/Descent/Precoverage.lean [hunk 1]
```diff
@@ -0,0 +1,267 @@
...
+
+/-- If a morphism `q : Z ⟶ X i` belongs to `sieve f f' i`, this is a choice of
+of a morphism `a : Z ⟶ X' j` for some `j` such that `a ≫ f' j = q ≫ f i`. -/
+noncomputable def a : Z ⟶ X' (idx hq) := (exists_fac hq).choose_spec.choose
+
+@[reassoc]
+lemma fac : a hq ≫ f' (idx hq) = q ≫ f i := (exists_fac hq).choose_spec.choose_spec
+
+end sieve
+/-- Given two family of morphisms `f : X i ⟶ S` and `f' : X' j ⟶ S`,
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Sites/Descent/Precoverage.lean:97]:
```suggestion

/-- Given two family of morphisms `f : X i ⟶ S` and `f' : X' j ⟶ S`,
```

File: Mathlib/CategoryTheory/Sites/Descent/Precoverage.lean [hunk 2]
```diff
@@ -0,0 +1,268 @@
...
+
+variable {F} {D₁ D₂ : F.DescentData f}
+  (φ : (pullFunctor F (p := 𝟙 _) (f' := f') (p' := p') (by cat_disch)).obj D₁ ⟶
+    (pullFunctor F (p := 𝟙 _) (f' := f') (p' := p') (by cat_disch)).obj D₂)
+
+variable (f f') in
+/-- Given two families of morphims `f i : X i ⟶ S` and `f' j : X' j ⟶ S`,
+this is the sieve of `Over.mk (𝟙 (X i)) : Over (X i)` which corresponds
+to the sieve of `X i` that is obtained by pulling back by `f i` the sieve
+generated by `f`. -/
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/Descent/Precoverage.lean]:
```suggestion
generated by `f'`. -/
```

File: Mathlib/CategoryTheory/Sites/Descent/Precoverage.lean [hunk 3]
```diff
@@ -0,0 +1,268 @@
...
+
+namespace full_pullFunctor
+
+variable {F} {D₁ D₂ : F.DescentData f}
+  (φ : (pullFunctor F (p := 𝟙 _) (f' := f') (p' := p') (by cat_disch)).obj D₁ ⟶
+    (pullFunctor F (p := 𝟙 _) (f' := f') (p' := p') (by cat_disch)).obj D₂)
+
+variable (f f') in
+/-- Given two families of morphims `f i : X i ⟶ S` and `f' j : X' j ⟶ S`,
+this is the sieve of `Over.mk (𝟙 (X i)) : Over (X i)` which corresponds
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/Descent/Precoverage.lean]:
```suggestion
this is the sieve on `Over.mk (𝟙 (X i)) : Over (X i)` which corresponds
```

File: Mathlib/CategoryTheory/Sites/Descent/Precoverage.lean [hunk 4]
```diff
@@ -0,0 +1,268 @@
...
+  (Sieve.overEquiv (Over.mk (𝟙 (X i)))).symm
+    (Sieve.pullback (f i) (Sieve.ofArrows X' f'))
+
+include hf' in
+variable (f) in
+lemma sieve_mem (i : ι) : sieve f f' i ∈ J.over _ _ := by
+  simpa only [J.mem_over_iff, Equiv.apply_symm_apply] using J.pullback_stable (f i) hf'
+
+lemma mem_sieve {i : ι} {Z : C} (q : Z ⟶ X i) ⦃j : ι'⦄ (a : Z ⟶ X' j)
+    (fac : a ≫ f' j = q ≫ f i) :
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/Descent/Precoverage.lean]:
```suggestion
    (fac : a ≫ f' j = q ≫ f i := by cat_disch) :
```
here and elsewhere, autoparameters would save some space

in `mor_eq`, this would require changing the argument orders so that the autoparams are the last arguments.

File: Mathlib/CategoryTheory/Sites/Descent/Precoverage.lean [hunk 5]
```diff
@@ -0,0 +1,268 @@
...
+  obtain ⟨_, q, _, ⟨j⟩, fac⟩ := hq
+  exact ⟨j, q, fac⟩
+
+/-- If a morphism `q : Z ⟶ X i` belongs to `sieve f f' i`, this is a choice of
+index `j` such that there exists a factorization `a ≫ f' j = q ≫ f i` for
+some `a`. -/
+noncomputable def idx : ι' := (exists_fac hq).choose
+
+/-- If a morphism `q : Z ⟶ X i` belongs to `sieve f f' i`, this is a choice of
+of a morphism `a : Z ⟶ X' j` for some `j` such that `a ≫ f' j = q ≫ f i`. -/
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/Descent/Precoverage.lean]:
```suggestion
a morphism `a : Z ⟶ X' j` for some `j` such that `a ≫ f' j = q ≫ f i`. -/
```

File: Mathlib/CategoryTheory/Sites/Descent/Precoverage.lean [hunk 6]
```diff
@@ -0,0 +1,268 @@
...
+  obtain ⟨_, a₁, _, ⟨j₁⟩, fac₁⟩ := h₁
+  obtain ⟨_, a₂, _, ⟨j₂⟩, fac₂⟩ := h₂
+  dsimp at a₁ a₂ fac₁ fac₂
+  rw [familyOfElements_eq _ _ _ _ fac₁, familyOfElements_eq _ _ _ _ fac₂,
+    ← mor_precomp w φ Y₁.hom a₁ fac₁ _ _ hg₁ _ rfl,
+    ← mor_precomp w φ Y₂.hom a₂ fac₂ _ _ hg₂ _ rfl]
+  apply mor_unique
+
+include hf' in
+/-- Given two family of morphisms `f : X i ⟶ S` and `f' : X' j ⟶ S`,
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/Descent/Precoverage.lean]:
```suggestion
/-- Given two families of morphisms `f : X i ⟶ S` and `f' : X' j ⟶ S`,
```

**Review by robin-carlier — COMMENTED** [review]
Only minor comments about typos/ a suggestion about autoparams to make things slighttly less verbose, but overall looks good!

File: Mathlib/CategoryTheory/Sites/Descent/Precoverage.lean [hunk 7]
```diff
@@ -0,0 +1,268 @@
...
+section
+
+variable {J : GrothendieckTopology C} [F.IsPrestack J]
+
+variable {ι : Type t} {S : C} {X : ι → C} {f : ∀ i, X i ⟶ S}
+  {ι' : Type t'} {X' : ι' → C} {f' : ∀ j, X' j ⟶ S}
+  {α : ι' → ι} {p' : ∀ j, X' j ⟶ X (α j)} (w : ∀ j, p' j ≫ f (α j) = f' j)
+  (hf' : Sieve.ofArrows _ f' ∈ J S)
+
+namespace full_pullFunctor
```
Comment (robin-carlier) [inline Mathlib/CategoryTheory/Sites/Descent/Precoverage.lean:48]: since `pullFunctor` is in the `DescentData` namespace, maybe this one should be as well? Currently, this sits in the `Pseudofunctor` namespace.

File: Mathlib/CategoryTheory/Sites/Descent/Precoverage.lean [hunk 8]
```diff
@@ -0,0 +1,274 @@
...
+  exact ⟨j, q, fac⟩
+
+/-- If a morphism `q : Z ⟶ X i` belongs to `sieve f f' i`, this is a choice of
+index `j` such that there exists a factorization `a ≫ f' j = q ≫ f i` for
+some `a`. -/
+noncomputable def idx : ι' := (exists_fac hq).choose
+
+/-- If a morphism `q : Z ⟶ X i` belongs to `sieve f f' i`, this is a choice of
+a morphism `a : Z ⟶ X' j` for some `j` such that `a ≫ f' j = q ≫ f i`. -/
+noncomputable def a : Z ⟶ X' (idx hq) := (exists_fac hq).choose_spec.choose
```
Comment (jcommelin) [inline Mathlib/CategoryTheory/Sites/Descent/Precoverage.lean]: Do you want this to be a public name? Or could this be made private?

Comment (joelriou) [reply Mathlib/CategoryTheory/Sites/Descent/Precoverage.lean]: Thanks for the suggestion! I have changed the name as `hom`, and made all intermediate definitions private.

File: Mathlib/CategoryTheory/Sites/Descent/Precoverage.lean [hunk 9]
```diff
@@ -0,0 +1,272 @@
...
+      (by simpa using sieve_mem _ hf' i)) _
+        (compatible_familyOfElements w φ i)
+  have hs : (familyOfElements w φ i).IsAmalgamation s :=
+    Presieve.IsSheafFor.isAmalgamation (Presieve.IsSheaf.isSheafFor _
+      ((isSheaf_iff_isSheaf_of_type _ _).1 (IsPrestack.isSheaf J _ _)) _
+        (by simpa using sieve_mem _ hf' i)) (compatible_familyOfElements w φ i)
+  change (F.map q.op.toLoc).toFunctor.map (F.presheafHomObjHomEquiv.symm s) = _
+  simpa [familyOfElements_eq w φ (Z := Over.mk q) _ a fac,
+    presheafHomObjHomEquiv, pullHom, mapComp'_id_comp_hom_app,
+    mapComp'_id_comp_inv_app] using hs _ (mem_sieve _ _ fac)
```
Comment (dagurtomas) [inline Mathlib/CategoryTheory/Sites/Descent/Precoverage.lean]:
```suggestion
  simpa [hom, familyOfElements_eq w φ (Z := Over.mk q) _ a fac,
    presheafHomObjHomEquiv, pullHom, mapComp'_id_comp_hom_app,
    mapComp'_id_comp_inv_app] using hs _ (mem_sieve _ _ fac)
```

**Review by dagurtomas — COMMENTED** [review]
Thanks!

maintainer delegate

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
